US06720320B2
3,5-Dihydro-5-(2′-methoxybenzylidene)-2-methyl-3-phenylimidazol-4-one (1.85 g) was dissolved in dichloromethane (30 ml) and boron tribromide (2 ml) was added dropwise while stirring the mixture at −40° C. Thereafter, the mixture was stirred under ice-cooling for 1 hr, poured into ice water and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 3,5-dihydro-5-(2′-hydroxybenzylidene)-2-methyl-3-phenylimidazol-4-one (1.76 g) as red crystals. The crystals and (S)-glycidyl nosylate (1.63 g) were dissolved in dimethylformamide (20 ml) and potassium carbonate (1.74 g) was added. The mixture was heated at 50° C. for 2 hr. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous ammonium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give an oily product (2.13 g). This oily product and 4-(naphthalen-2-yl)piperidine were dissolved in methanol (20 ml) and refluxed under heating for 2 hr. After cooling, the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (0.45 g) as an oil.

reactant | 3,5-Dihydro-5-(2′-methoxybenzylidene)-2-methyl-3-phenylimidazol-4-one | 1.85 g | COC1=C(C=C2C(N(C(=N2)C)C2=CC=CC=C2)=O)C=CC=C1 | C18H16N2O2
reactant | boron tribromide | 2 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3,5-dihydro-5-(2′-hydroxybenzylidene)-2-methyl-3-phenylimidazol-4-one | 1.76 g | OC1=C(C=C2C(N(C(=N2)C)C2=CC=CC=C2)=O)C=CC=C1 | C17H14N2O2
